US06018020
0.5 g (2.92 mmol) of 3-(3-thienyl)-DL-alanine was dissolved in 15 ml of water and 15 ml of dioxan. 2.5 g (29.76 mmol) of sodium hydrogen carbonate and 3.53 g (16.19 mmol) of di-tert-butyl dicarbonate were added and the solution was stirred for 2 hours and then evaporated to dryness under a vacuum. The residue was partitioned between diethyl ether and saturated aqueous sodium hydrogen carbonate solution. The aqueous phase was acidified with 2M hydrochloric acid and extracted with ethyl acetate. The organic phase was dried over magnesium sulphate and the solvent was evaporated under a vacuum to give 0.685 g of N-(tert-butoxycarbonyl)-3-(3-thienyl)-DL-alanine as a colourless oil; 1H NMR (250 MHz, CDCl3) δ: 1.4 (s,9H), 2.9 (dd,1H), 3.15 (dd,1H), 4.3 (m,1H), 7.0 (d,1H), 7.1 (br s,H), 7.3 (m,1H).

reactant | 3-(3-thienyl)-DL-alanine | 2.92 mmol, 0.5 g | S1C=C(C=C1)CC(N)C(=O)O | C7H9NO2S
reactant | sodium hydrogen carbonate | 29.76 mmol, 2.5 g | C(O)([O-])=O.[Na+]
reactant | di-tert-butyl dicarbonate | 16.19 mmol, 3.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 15 ml | O | H2O
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | N-(tert-butoxycarbonyl)-3-(3-thienyl)-DL-alanine | 0.685 g | C(C)(C)(C)OC(=O)NC(CC1=CSC=C1)C(=O)O | C12H17NO4S
